US04814455
3-(Phenylmethyl)-2-oxazolidinone (R7 =CH2Ph) (Intermediate for Preparation of Formula II Compounds)
A cold (ice-bath) suspension of sodium hydride (0.55 mole, hexane washed) in 100 mL of dry THF was stirred under a nitrogen atmosphere while a solution of 2-oxazolidinone in 500 mL of 10:1 THF:DMF was added dropwise. The resulting gray suspension was warmed to room temperature and stirred for 24 hour. Benzyl bromide (66 mL, 0.056 mole) was added to the resulting white suspension and stirred at ambient temperature 24 hour. The reaction was quenched by careful addition of 26 mL water and the resulting mixture was concentrated and poured into 500 mL of water. After extraction with methylene chloride, the combined extracts were washed with water and brine and dried over magnesium sulfate. Concentration in vacuo afforded 104 g of a yellow oil which was purified by Kugelrohr distillation (bp 100°/0.1 mm) to give 81 g (92% yield) of the product as a colorless liquid which solidified on standing at room temperature to a colorless solid, m.p. 76°-78°.

reactant | sodium hydride | 0.55 mole | [H-].[Na+]
reactant | 2-oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Benzyl bromide | 0.056 mole, 66 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 3-(Phenylmethyl)-2-oxazolidinone | 104 g | C1(=CC=CC=C1)CN1C(OCC1)=O | C10H11NO2
